US04277479
Into 150 ml of dried benzene, 17.6 g of N-chloroacetylcyclohexylamine was added. While the inside temperature is kept below 15° C. by ice-cooling the outside of the reaction vessel, 24 g of phosphorus pentachloride (PCl5) was added under stirring condition. After completion of the addition, the stirring is continued for 2 hours at a room temperature, then the reaction mixture is concentrated to a half volume thereof by using an evaporator with a bath temperature of below 50° C. To the concentrated reaction mixture was added dropwise 100 ml of benzene containing 10% of HN3 under stirring condition for 90 minutes while keeping the inside temperature below 15° C. After the addition operation, the reaction mixture is allowed to stand overnight. Then the reaction mixture is refluxed for 3 hours with stirring. The thus obtained concentrate is extracted with 200 ml of chloroform. The chloroform layer is washed with water, 5% NaHCO3 aqueous solution, 5% hydrochloric acid and water in this order and dried with Na2SO4. After removal of the drying agent by filtration, the mother liquour is concentrated and the residue thus obtained is recrystallized from chloroform-petroleum ether to obtain 16.1 g of 1-cyclohexyl-5-chloromethyltetrazol in the form of colorless needle like crystals. Melting point: 101° to 103.5° C.

reactant | N-chloroacetylcyclohexylamine | 17.6 g | ClCC(=O)NC1CCCCC1 | C8H14ClNO
reactant | phosphorus pentachloride | 24 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HN3 | N=[N+]=[N-] | HN3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-cyclohexyl-5-chloromethyltetrazol | 16.1 g | C1(CCCCC1)N1N=NN=C1CCl | C8H13ClN4
